*80RIA60 MCE 3/18/98
*Ref: IR Power Semiconductors Product Digest '94
*600V 125A pkg:TO-126 1,2,3
.SUBCKT 80RIA60  1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    76.8K
RR  1 4    51.2K
RGK 6 5    31.2
RG  2 6    0.238
RK  3 5    1.73M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=50F IBV=1.56M BV=600)
.MODEL ZR   D (IS=50F IBV=1.56M BV=600)
.MODEL ZGK  D (IS=50F IBV=1.56M BV=5)
.MODEL POUT PNP (IS=50P BF=1 CJE=161P TF=101U)
.MODEL NOUT NPN (IS=50P BF=100 RC=6.94M CJE=804P CJC=161P TF=6.72U)
.ENDS


